US04556711
To a stirred suspension of sodium hydride (2.1 g, 50% in oil) in dry dimethylformamide (35 ml) with external cooling was added portionwise, benzyl N-hydroxy-N-phenylcarbamate (10.6 g). After 5 minutes a brown solution was obtained to which was added 2-chloro-3-methylpyrazine (5.5 g) and the mixture was allowed to attain room temperature. The solution was poured into water (200 ml) and the aqueous phase decanted from the dark oil. The aqueous solution deposited a yellow solid which was collected and washed with ethanol to give 5-(4-benzyloxycarbonylaminophenyl)-3-methyl-2(1H)-pyrazinone (1.55 g. m.p. 238°-240° C.).

reactant | sodium hydride | 2.1 g | [H-].[Na+]
reactant | benzyl N-hydroxy-N-phenylcarbamate | 10.6 g | ON(C(OCC1=CC=CC=C1)=O)C1=CC=CC=C1 | C14H13NO3
reactant | 2-chloro-3-methylpyrazine | 5.5 g | ClC1=NC=CN=C1C | C5H5ClN2
reactant | water | 200 ml | O | H2O
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
product | 5-(4-benzyloxycarbonylaminophenyl)-3-methyl-2(1H)-pyrazinone | 1.55 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C=C1)C=1N=C(C(NC1)=O)C | C19H17N3O3
